US08557832B2
rac-3-[trans-2-hydroxycyclohexyl]-6-{[6-(1H-pyrazol-1-yl)pyridin-3-yl]methyl}benzo[h]quinazolin-4(3H)-one
To a solution of rac-6-[(6-chloropyridin-3-yl)methyl]-3-[trans-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one (0.050 g, 0.12 mmol) and pyrazole (0.024 g, 0.36 mmol) in 2 mL of DMSO under an atmosphere of nitrogen was added cesium carbonate (0.24 mL, 1 N aqueous, 0.24 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (1.7 mg, 0.012 mmol), and copper(I) iodide (2.3 mg, 0.012 mmol). The mixture was heated at 130° C. for 24 h, cooled to rt, and purified via preparative reverse phase HPLC. The appropriate fractions were concentrated in vacuo. The residue was taken up in saturated aqueous sodium bicarbonate and extracted 3 times with ethyl acetate. The combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 452.0 for [M+H]+: 1H NMR (400 MHz, CDCl3) δ 9.01-8.99 (m, 1H), 8.50 (s, 1H), 8.32-8.30 (m, 2H), 8.02 (s, 1H), 7.93-7.91 (m, 1H), 7.84 (d, J=8.2 Hz, 1H), 7.69-7.64 (m, 3H), 7.56 (d, J=8.4 Hz, 1H), 6.43 (s, 2H), 4.63 (br s, 1H), 4.09 (br s, 1H), 2.28-2.22 (m, 1H), 2.14-2.00 (m, 1H), 1.94-1.84 (m, 3H), 1.60-1.40 (m, 3H), 1.18-1.10 (m, 1H).

reactant | rac-6-[(6-chloropyridin-3-yl)methyl]-3-[trans-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one | 0.12 mmol, 0.050 g | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@H]2[C@@H](CCCC2)O)=O | C24H22ClN3O2
reactant | pyrazole | 0.36 mmol, 0.024 g | N1N=CC=C1 | C3H4N2
reactant | cesium carbonate | 0.24 mmol, 1 N, 0.24 mL | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.012 mmol, 1.7 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.012 mmol, 2.3 mg | [Cu]I
product | rac-3-[trans-2-hydroxycyclohexyl]-6-{[6-(1H-pyrazol-1-yl)pyridin-3-yl]methyl}benzo[h]quinazolin-4(3H)-one | O[C@H]1[C@@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=NC(=CC1)N1N=CC=C1)C=CC=C3 | C27H25N5O2
